US06313311B1
3-(1H-Imidazol-4-ylmethyl)-indan-5-ol
A stirred mixture of 4-(6-methoxyindan-1-ylmethyl)-1H-imidazole hydrochloride (140 mg) and 48% hydrobromic acid (7 ml) is heated under reflux for 45 minutes. The cooled reaction mixture is poured into water and is made basic with ammonium hydroxide solution. The product is extracted into ethyl acetate which is washed with water, dried with sodium sulfate and evaporated to dryness. The crude product is coverted to its hydrochloride salt in ethyl acetate. M.p. 206-208° C.

reactant | 4-(6-methoxyindan-1-ylmethyl)-1H-imidazole hydrochloride | 140 mg | Cl.COC1=CC=C2CCC(C2=C1)CC=1N=CNC1
reactant | hydrobromic acid | 7 ml | Br | BrH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 3-(1H-Imidazol-4-ylmethyl)-indan-5-ol | N1C=NC(=C1)CC1CCC2=CC=C(C=C12)O | C13H14N2O
